US05691349
N-propyl-4-iodoaniline (0.7 g) gas suspended in dichloromethane. Trifluoroacetic anhydride (0.57 ml) was added and the mixture was stirred at ambient temperature for 4 hours. The resulting solution was evaporated to yield N-propyl-N-trifluoroacetyl-4-iodoaniline as an oil (0.8 g), which was used without purification.

reactant | N-propyl-4-iodoaniline | 0.7 g | C(CC)NC1=CC=C(C=C1)I | C9H12IN
reactant | Trifluoroacetic anhydride | 0.57 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-propyl-N-trifluoroacetyl-4-iodoaniline | 0.8 g | C(CC)N(C1=CC=C(C=C1)I)C(C(F)(F)F)=O | C11H11F3INO
